US07592477B2
Step a) Formation of 6-dodec-1-ynylnicotinaldehyde
A mixture of 6-bromonicotinaldehyde (500 mg, 2.69 mmol), 1-dodecyne (680 mg, 4.09 mmol), triphenylphosphine (23 mg, 0.09 mmol), triethylamine (470 ml, 3.38 mmol) and bis(triphenylphosphine)palladium(II) chloride (94 mg, 0.13 mmol) in THF (10 mL) was stirred under argon at rt for 30 min. Copper(I) iodide (21 mg, 0.11 mmol) was added and the mixture was stirred for 21 hours at rt. The solvent was removed under reduced pressure. The residue was diluted with a saturated aqueous solution of NH4Cl (20 mL) and extracted with Et2O (50 ml+2×20 mL). The combined organic layers were dried over MgSO4 and the solvent was removed under reduce pressure. The residue was purified by flash chromatography (c-Hex/EtOAc 4/1) to give the title compound as yellow oil (218 mg, 29%). 1H NMR (CDCl3, 300 MHz) δ 10.1 (s, 1H), 9.00 (s, 1H), 8.11 (d, 1H, J=8.1 Hz), 7.52 (d, 1H, J=8.1 Hz), 2.49 (t, 2H, J=7.1 Hz), 1.67 (m, 2H), 1.47 (m, 2H), 1.28 (m, 12H), 0.89 (t, 3H, J=6.8 Hz). M−(LC/MS(ESI)): 270.3; M+(LC/MS(ESI)): 272.4. HPLC (Condition A), Rt: 5.23 min (HPLC purity: 98.3%).

reactant | 6-bromonicotinaldehyde | 2.69 mmol, 500 mg | BrC1=NC=C(C=O)C=C1 | C6H4BrNO
reactant | 1-dodecyne | 4.09 mmol, 680 mg | C#CCCCCCCCCCC | C12H22
reactant | triphenylphosphine | 0.09 mmol, 23 mg | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | triethylamine | 3.38 mmol, 470 ml | C(C)N(CC)CC | C6H15N
solvent | THF | 10 mL | C1CCOC1 | C4H8O
catalyst | bis(triphenylphosphine)palladium(II) chloride | 0.13 mmol, 94 mg | Cl[Pd]([P](C1=CC=CC=C1)(C2=CC=CC=C2)C3=CC=CC=C3)([P](C4=CC=CC=C4)(C5=CC=CC=C5)C6=CC=CC=C6)Cl
catalyst | Copper(I) iodide | 0.11 mmol, 21 mg | [Cu]I
product | 6-dodec-1-ynylnicotinaldehyde | 218 mg, 29% | C(#CCCCCCCCCCC)C1=NC=C(C=O)C=C1 | C18H25NO
